US09062048B2
Step B: 1-(1-(4-oxocyclohexyl)propyl)urea
A solution of (1-1,4-dioxaspiro[4.5]decan-8-ylpropyl)urea (as prepared in the previous step, 89 mg, 0.37 mmol, 1.00 equiv) in CH3CN (2 mL) and HCl (2M, 2 mL) was stirred for 2 h at room temperature. The resulting mixture was concentrated under vacuum. The residue was diluted with 20 mL of aq. sodium bicarbonate (1M). The resulting solution was extracted with 2×20 ml, of dichloromethane. The organic layers were combined, dried and concentrated under vacuum to give the title compound as a yellow oil.

reactant | (1-1,4-dioxaspiro[4.5]decan-8-ylpropyl)urea | O1CCOC12CCC(CC2)C(CC)NC(=O)N | C12H22N2O3
reactant | HCl | 2M, 2 mL | Cl | ClH
solvent | CH3CN | 2 mL | CC#N | C2H3N
product | 1-(1-(4-oxocyclohexyl)propyl)urea | O=C1CCC(CC1)C(CC)NC(=O)N | C10H18N2O2
